US05641789
(+)-3-(6-Hydroxychroman-3-ylmethyl)benzoic acid methyl ester
A mixture of 5.0 g (0.017 mole) of (3R-cis)-3-(4,6-dihydroxychroman-3-ylmethyl)benzoic acid methyl ester (prepared by esterification of the corresponding carboxylic acid (prepared according to the method of co-pending U.S. Pat. Application of Murtiashaw, et al., U.S. Ser. No. 07/964,336 filed Oct. 21, 1992) and 1.0 g palladium hydroxide in 100 mL glacial acetic acid was shaken in a Parr hydrogenator under 50 psi hydrogen at room temperature for 3 hours. The mixture was filtered through Celite and the filtrate concentrated to give an oil. Flash chromatography on silica gel eluting with 5% methanol in dichloromethane yielded 4.3 g (81% of the title product as an oil). NMR (CDCl3): δ2.30 (m, 1H); 2.50 (dd, 1 ,H) ; 2.75 (m, 3H); 3.80 (dd, 1H); 3.92 (s, 3H); 4.15 (dd, 1H). MS (Cl, NH3) m/e: 316 (100).

reactant | (3R-cis)-3-(4,6-dihydroxychroman-3-ylmethyl)benzoic acid methyl ester | 0.017 mole, 5.0 g | COC(C1=CC(=CC=C1)C[C@@H]1COC2=CC=C(C=C2[C@@H]1O)O)=O | C18H18O5
reactant | hydrogen | [H][H] | H2
reactant | methanol | CO | CH4O
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium hydroxide | 1.0 g | [OH-].[Pd+2].[OH-]
product | (+)-3-(6-Hydroxychroman-3-ylmethyl)benzoic acid methyl ester | 81% | COC(C1=CC(=CC=C1)CC1COC2=CC=C(C=C2C1)O)=O | C18H18O4
